US06022969
4-Amino-N-tert-butoxycarbonylbenzylamine hydrochloride (25.77 g, 99.6 mmol.) and cyanamide (55 g, 1.3 mol.) were heated neat at 65° C. over 1.5 hours. The mixture was then cooled to room temperature and ether (250 mL) was added. The insoluble yellow oil was repeatedly washed with additional ethyl ether to remove traces of cyanamide and dried in vacuo to give 4-guanidino-N-tert-butoxycarbonylbenzylamine hydrochloride as an amorphous yellow material which was carried on without further purification.

reactant | 4-Amino-N-tert-butoxycarbonylbenzylamine hydrochloride | 99.6 mmol, 25.77 g | Cl.NC1=CC=C(CNC(=O)OC(C)(C)C)C=C1
reactant | cyanamide | 1.3 mol, 55 g | N#CN | CH2N2
solvent | ether | 250 mL | CCOCC | C4H10O
product | 4-guanidino-N-tert-butoxycarbonylbenzylamine hydrochloride | Cl.N(C(=N)N)C1=CC=C(CNC(=O)OC(C)(C)C)C=C1 | InChI=1S/C13H20N4O2.ClH/c1-13(2,3)19-12(18)16-8-9-4-6-10(7-5-9)17-11(14)15;/h4-7H,8H2,1-3H3,(H,16,18)(H4,14,15,17);1H
